US08030337B2
N-[2-(2-Methyl-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl)ethyl]propionamide
N-[2-(2-Methyl-6,7-dihydro-8H-indeno[5,4-d][1,3]oxazol-8-ylidene)ethyl]propionamide (135 mg, 0.499 mmol) was dissolved in methanol (5 mL), a 10% palladium-carbon powder (27 mg) was added, and the mixture was stirred at room temperature for 2.5 hr under a hydrogen atmosphere. The catalyst was filtered off using celite, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=50/50→100/0) to give the title compound (115 mg, yield 85%).

reactant | N-[2-(2-Methyl-6,7-dihydro-8H-indeno[5,4-d][1,3]oxazol-8-ylidene)ethyl]propionamide | 0.499 mmol, 135 mg | CC=1OC2=C(N1)C=CC=1CCC(C12)=CCNC(CC)=O | C16H18N2O2
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium-carbon | 27 mg | [C].[Pd]
product | N-[2-(2-Methyl-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl)ethyl]propionamide | 115 mg, yield 85% | CC=1OC2=C(N1)C=CC=1CCC(C12)CCNC(CC)=O | C16H20N2O2
